US08703758B2
D) tert-butyl[(4-ethynylcyclohexyl)oxy]diphenylsilane
A suspension of 4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexanecarbaldehyde (4.74 g), dimethyl (1-diazo-2-oxopropyl)phosphonate (2.98 g) and potassium carbonate (3.57 g) in methanol (40 mL) was stirred at room temperature for 2 hr. The reaction mixture was extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (4.15 g).

reactant | 4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexanecarbaldehyde | 4.74 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C=O | C23H30O2Si
reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 2.98 g | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
reactant | potassium carbonate | 3.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 40 mL | CO | CH4O
product | tert-butyl[(4-ethynylcyclohexyl)oxy]diphenylsilane | 4.15 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1CCC(CC1)C#C | C24H30OSi
